* Top level circuit sky130_fd_bd_sram__openram_sp_custom_nand3_dec
.subckt sky130_custom_nand3_dec A B C Z VDD GND

X1001 Z A a_n346_328# GND sky130_fd_pr__nfet_01v8 W=0.74 L=0.15 m=1
X1002 a_n346_256# C GND GND sky130_fd_pr__nfet_01v8 W=0.74 L=0.15 m=1
X1003 a_n346_328# B a_n346_256# GND sky130_fd_pr__nfet_01v8 W=0.74 L=0.15 m=1
X1000 Z B VDD VDD sky130_fd_pr__pfet_01v8 W=1.12 L=0.15 m=1
X1004 Z A VDD VDD sky130_fd_pr__pfet_01v8 W=1.12 L=0.15 m=1
X1005 Z C VDD VDD sky130_fd_pr__pfet_01v8 W=1.12 L=0.15 m=1
.ends

